US07087729B1
The membrane protein bacteriorhodopsin was purifed from Halobacterium salinarium (gift of J. Lanyi, Univerity of California, Riverside) as follows. The bacteria were grown in 5 ml Standard Growth Medium (4.28 M sodium chloride, 81.1 mM magnesium sulfate heptahydrate, 10.2 mM sodium citrate, 26.8 mM potassium chloride, 10 g/L bacteriological peptone (Oxoid), 1.36 μM calcium chloride, 27.5 μM zinc sulfate heptahydrate, 12 μM manganese sulfate, 12 μM ferrous ammonium sulfate hexahydrate, 3.36 μM cupric sulfate pentahydrate, pH 7.0) with 1 mg/mL novobiocin with shaking for 5 days at 40° C. 3 mL of this culture were used to innoculate 300 mL standard growth medium with 1 mg/mL novobiocin, and the culture was grown for another three days at 40° C. with shaking. 16 mL of this culture was used to inoculate 800 mL of Standard Growth Media without novobiocin, and grown for 10 days at 40° C. with shaking. The cells were harvested by centrifugation at 16000×g for 10 minutes, and then resuspend in 100 mL 4 M NaCl, 0.5 mg/L DNaseI. The solution was then dialyzed with 12–14 kDa molecular weight cutoff (MWCO) membrane (Spectrum Laboratories Inc.) overnight at 4° C. against 12 L 0.1 M NaCl. Membranes were collected by centrifugation of the dialyzed solution at 100,000×g for 60 minutes. The membranes were washed 3 times in 0.1 M NaCl by repeatedly homogenizing the membrane pellet in 0.1 M NaCl with a Teflon pestle and centrifuging at 100,000×g for 60 minutes. Purple membranes were isolated by overlaying 12.5 mL of the membrane suspension on a 40%/60% (10 mL/7.5 mL) sucrose gradient and centrifuging at 75,000×g overnight at 4° C. The purple membranes were removed from the sucrose density gradient and stored at −80° C.

reactant | magnesium sulfate heptahydrate | 81.1 mM | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium citrate | 10.2 mM | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | potassium chloride | 26.8 mM | [Cl-].[K+]
reactant | calcium chloride | 1.36 μM | [Cl-].[Ca+2].[Cl-]
reactant | novobiocin | CC1=C(C=CC2=C1OC(=O)C(=C2O)NC(=O)C=3C=CC(=C(C3)CC=C(C)C)O)O[C@@H]4[C@H]([C@@H]([C@H](C(O4)(C)C)OC)OC(=O)N)O | C31H36N2O11
solvent | NaCl | 4 M, 100 mL | [Na+].[Cl-]
catalyst | zinc sulfate heptahydrate | 27.5 μM | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Zn+2]
catalyst | manganese sulfate | 12 μM | S(=O)(=O)([O-])[O-].[Mn+2]
solvent | sodium chloride | 4.28 M | [Cl-].[Na+]
product | sucrose | 10 mL, 60% | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
